US09062048B2
Step D: 4-(4-oxocyclohexyl)oxazolidin-2-one
A solution of 4-(1,4-dioxaspiro[4.5]decan-8-yl)oxazolidin-2-one (880 mg, 3.87 mmol) and acetonitrile (65 mL).), prepared in the previous step, was deprotected as described in example 1, step C to afford the product.

reactant | 4-(1,4-dioxaspiro[4.5]decan-8-yl)oxazolidin-2-one | 3.87 mmol, 880 mg | O1CCOC12CCC(CC2)C2NC(OC2)=O | C11H17NO4
solvent | acetonitrile | 65 mL | C(C)#N | C2H3N
product | 4-(4-oxocyclohexyl)oxazolidin-2-one | O=C1CCC(CC1)C1NC(OC1)=O | C9H13NO3
